US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-(4-chlorophenoxy)benzaldehyde in an analogous manner to that described in Example 1 to give 9-[3-(4-chlorophenoxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a beige crystalline solid of melting point 238-239° C.

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(4-chlorophenoxy)benzaldehyde | ClC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9ClO2
product | 9-[3-(4-chlorophenoxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | ClC1=CC=C(OC=2C=C(C=CC2)C2C=3C(CC(CC3NC=3CC(CC(C23)=O)(C)C)(C)C)=O)C=C1 | C29H30ClNO3
